US05621087
To a stirred suspension of morphine (4 g, 14 mmol) in 10% aqueous sodium bicarbonate (377 ml) was added acetic anhydride (19 ml) over 8.5 minutes. 15 minutes after the addition, ice cold water (300 ml) was added and the solution was extracted with dichloromethane (200 ml). The organic extract was washed with brine, dried over Na2SO4, and the solvent removed in vacuo to leave a sticky white residue. Trituration with ether gave 3-acetylmorphine (3.68 g, 80%). The corresponding 3-pivalyl, 3-isobutyryl, 3-propionyl and other 3-acyl derivatives of morphine were also prepared.

reactant | morphine | 14 mmol, 4 g | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | acetic anhydride | 19 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ether | CCOCC | C4H10O
solvent | sodium bicarbonate | 377 ml | C([O-])(O)=O.[Na+]
product | 3-acetylmorphine | 3.68 g, 80% | C(C)(=O)C1(CC=C2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2=C1O5)CCN3C)O)O | C19H23NO4
